US06030952
(f) 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-carboxylic acid
A mixture of methyl 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-(3-methyl)-2,3-dihydrobenzofuran-5-carboxylate (510 mg, 135 mmol), sodium hydroxide (0.33 g, 7.9 mmol), and lithium hydroxide (0.33 g, 7.9 mmol) is stirred 5 days at ambient temperature. It is concentrated in vacuo at 40° C. in a rotary evaporator. 10 ml of water and 10 ml of ethyl acetate are added again. The mixture is acidified to pH 1 with a concentrated hydrochloric acid solution. After separation, the organic phase is washed twice with 10 ml of water, dried over magnesium sulphate, and concentrated in vacuo at 40° C. in a rotary evaporator. The solid obtained is washed with heptane.

reactant | methyl 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-(3-methyl)-2,3-dihydrobenzofuran-5-carboxylate | 135 mmol, 510 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C(=O)OC)C)C | C25H30O3
reactant | sodium hydroxide | 7.9 mmol, 0.33 g | [OH-].[Na+]
reactant | lithium hydroxide | 7.9 mmol, 0.33 g | [OH-].[Li+]
product | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-carboxylic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C(=O)O)C)C | C24H28O3
